Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Tetracycline / lisinopril
 
Attending: ___
 
Chief Complaint:
Fevers/chills/weakness/Sternal wound erythema/Hyperglycemia

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female s/p CABG x3 on ___ post op course was 
uneventful and she was discharged home on POD#4. She had been 
progressing well at home until ___ when she developed sternal 
pain, episodes of fevers/chills and over
the past 24 hrs she has been experiencing bloods sugars >400 
despite her insulin. She was seem by the ___ nurse today who was 
worried about the appearance of her sternal wound and elevated 
blood sugars. Went to OSH received Vancomycin and Zosyn and 
transferred to ___ for further evaluation. In the ER she was 
hemodynamically stable with blood sugars >250, not in DKA. 
Patient admits to mild nausea over the past few days and on/off 
diarrhea.

 
Past Medical History:
Diabetes
Dyslipidemia
Hypertension 
CAD with 2 prior MIs (___)
Congestive Heart Failure 
CVA with right sided weakness 
Asthma 
GERD 
Past Surgical History:
Cholcystectomy
Past Cardiac Procedures:
3 stents placed ___ at ___

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
Pulse:74 Resp:13  O2 sat:97/RA
B/P  Left:156/78
Height:5'3"     Weight:200 lbs

General: supine following cath
Skin: Dry [x] intact [x]
HEENT: PERRLA [] EOMI [x] right pupil sluggish, left round and
reactive
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema [] _trace_
early venous stasis changes bilaterally, ___ site CDI
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: cath  Left:2+
DP           Right: 1+  Left:1+
___           Right: doppler  Left:doppler
Radial       Right: 2+  Left: 2+

Sternum: Mid to lower sternal pole with superficaial dehisence 
of
wound scant serosang drainage with surround mild erythemia

Carotid Bruit        Right:    Left:
no carotid bruits

 
Pertinent Results:
___ : CXR
As compared to the previous radiograph, the central line has 
been 
removed.  The alignment of the sternal wires is unchanged as 
compared to the previous film.  Unchanged moderate cardiomegaly 
and tortuosity of the thoracic aorta but without signs 
indicative of pulmonary edema.  No larger pleural effusions.  
Status post CABG.  No pneumonia. 

___ 07:35AM BLOOD WBC-7.5 RBC-3.58* Hgb-9.5* Hct-29.6* 
MCV-83 MCH-26.4* MCHC-32.0 RDW-13.5 Plt ___
___ 07:20AM BLOOD WBC-8.1 RBC-3.41* Hgb-8.9* Hct-27.5* 
MCV-81* MCH-26.1* MCHC-32.4 RDW-13.6 Plt ___
___ 07:40AM BLOOD WBC-7.9 RBC-3.48* Hgb-9.4* Hct-28.6* 
MCV-82 MCH-26.9* MCHC-32.8 RDW-13.4 Plt ___
___ 07:35AM BLOOD Glucose-106* UreaN-20 Creat-0.9 Na-139 
K-4.0 Cl-104 HCO3-26 AnGap-13
___ 07:20AM BLOOD Glucose-159* UreaN-21* Na-136 K-3.4 
Cl-101 HCO3-24 AnGap-14
___ 07:40AM BLOOD UreaN-25* Creat-1.3* Na-137 K-3.3 Cl-102
___ 10:50AM BLOOD Glucose-180* UreaN-33* Creat-1.8* Na-139 
K-3.8 Cl-101 HCO3-25 AnGap-17
 
Brief Hospital Course:
Mrs. ___ was admitted to the ___ on ___ for further 
management of her fever and sternal wound erythema. Her blood 
sugars were found to be severely elevated. The ___ diabetes 
service was consulted for assistance with managing her diabetes 
agents. She was started on vancomycin and zosyn for coverage of 
her wound. On HD3, she developed sternal drainage and had a 
bedside debridement which revealed 2 superficial pockets of 
purulent drainage. These were cleaned out and wound bed remained 
wet, therefore VAC was applied on HD5 (___).  VAC was changed 
on ___, at which time wound looked clean with copious 
fibrinous tissue. She remained afebrile and white blood count 
remained normal. Home dose of Lasix was resumed with peripheral 
edema present. She was changed to oral Augmentin for a 2 week 
course upon discharge and she was follow up was arranged in 1 
week for wound check and VAC change in cardiac surgery office. 
Lantus was increased and humalog sliding scale was initiated. 
Blood sugars were well controlled at the time of discharge. She 
was discharged on HD8 in stable condition with ___ services.
 
Medications on Admission:
1. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet,delayed 
release (___) by mouth daily Disp #*30 Tablet Refills:*0
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. MetFORMIN (Glucophage) 850 mg PO QAM 
4. MetFORMIN (Glucophage) 500 mg PO AT LUNCH 
5. MetFORMIN (Glucophage) 850 mg PO QPM 
6. Glargine 28 Units Breakfast
7. Ranitidine 300 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
10. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*40 Tablet Refills:*0
11. Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 

day Disp #*90 Tablet Refills:*0
12. HydrALAzine 50 mg PO Q6H 
RX *hydralazine 50 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*120 Tablet Refills:*0
13. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
14. Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
15. Furosemide 40 mg PO DAILY 
40mg daily x 1 week, then resume 20mg daily  
RX *furosemide 20 mg 2 tablet(s) by mouth daily Disp #*37 Tablet 

Refills:*0
16. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride [Klor-Con] 20 mEq 1 packet by mouth daily 

Disp #*7 Packet Refills:*0
17. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob /wheezing 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Glargine 30 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
6. Lidocaine 5% Patch 1 PTCH TD DAILY 
7. Lorazepam 0.5 mg PO Q4H:PRN anxiety 
8. MetFORMIN (Glucophage) 850 mg PO DAILY 
9. Metoprolol Tartrate 25 mg PO TID 
10. Ranitidine 300 mg PO DAILY 
11. Senna 2 TAB PO BID:PRN constipation 
12. HydrALAzine 50 mg PO Q6H 
13. TraMADOL (Ultram) 25 mg PO Q3H:PRN pain 
14. Furosemide 20 mg PO DAILY 
15. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 14 Days 


 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Fever with sternal wound erythema - superficial wound infection

Diabetes
Dyslipidemia
Hypertension  
CAD with 2 prior MIs (___)
Congestive Heart Failure   
CVA with right sided weakness  
Asthma  
GERD  

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Ultram
Incisions: 
Sternal - VAC in place - Last changed ___ - due to be 
changed Q 72 hours
Leg Bilateral - no erythema, drainage. 
1+ Edema

 
Discharge Instructions:
1) Please shower daily 
2) Please NO lotions, cream, powder, or ointments to incisions. 
3) Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart provided.
4) Change wound VAC q 72 hours
5) No lifting more than 10 pounds for 10 weeks
6) No driving until cleared by surgeon 
7) Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___